US07786108B2
Step 2. Preparation of (S)-(9-bromo-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(3-chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine
Stir (S)-(3-chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine-5-yl)-amine (0.53 g, 1.02 mmol) with N-bromosuccinimide (0.22 g, 1.22 mmol) in acetic acid (2 mL) at room temperature for 2 h. Evaporate the solvent under reduced pressure. Dilute the residue with water and neutralize with saturated NaHCO3 and extract with EtOAc (3×25 mL). Combine the organic layers and wash with water and brine, dry over sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Purify the residue by flash chromatography, eluting with hexane/ethyl acetate (5-40% EtOAc in hexane), to provide the title compound (0.49 g, 83%). MS (ES+): 599 (M+H).

reactant | (S)-(3-chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepine-5-yl)-amine | 1.02 mmol, 0.53 g | ClC=1C=C(CN([C@@H]2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F | C22H21ClF6N6
reactant | N-bromosuccinimide | 1.22 mmol, 0.22 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | (S)-(9-bromo-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-(3-chloro-5-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amine | 0.49 g, 83% | BrC1=C(C(=CC2=C1NCCC[C@@H]2N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)Cl)C)C(F)(F)F | C22H20BrClF6N6
